US06281227B1
Part B 7-Hydroxymethyl-4-chloroquinoline
7-Methyloxycarbonyl-4-chloroquinoline (2.1 g, 9.5 mmol) is dissolved in anhydrous THF (25 mL) and anhydrous ether (200 mL). The solution is cooled in a dry ice/acetone bath and treated 1 M lithium aluminum hydride in THF (11.0 mL, 11 mmol). The solution is warmed (approximately −45° C.) for 20 min. and quenched with ethyl acetate. The solution is diluted with ether (100 mL) and treated with water (36 mL), 15% NaOH (36 mL) and water (3×36 mL) in succession. The mixture is filtered and evaporated to yield the title compound as a residue (2.0 g, 9.7 mmol) which is dried under vacuum and used without further purification. MS m/z: M+=193; 1H NMR (CDCl3, 300 MHz) δ0.00, 8.65 (d, 1H), 8.15 (d, 1H), 8.0 (d, 1H), 7.6 (d, 1H), 7.45 (d, 1H), 4.8 (s, 2H).

reactant | 7-Methyloxycarbonyl-4-chloroquinoline | 9.5 mmol, 2.1 g | COC(=O)C1=CC=C2C(=CC=NC2=C1)Cl | C11H8ClNO2
reactant | ether | 200 mL | CCOCC | C4H10O
reactant | lithium aluminum hydride | 1 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 11 mmol, 11.0 mL | C1CCOC1 | C4H8O
product | 7-Hydroxymethyl-4-chloroquinoline | OCC1=CC=C2C(=CC=NC2=C1)Cl | C10H8ClNO
